US06124314
4-Methanesulfonylamino-butyric acid ethyl ester.
Methanesulfonyl chloride (4.10 g, 35.8 mmol) was added to a suspension of ethyl 4-aminobutyrate hydrochloride (6.00 g, 35.8 mmol) and Et3N (10.8 mL, 77.4 mmol) in THF (230 mL). The resulting suspension was stirred at room temperature for 43 h. The reaction mixture was filtered and the filtrate was concentrated. Flash chromatography (1:1 EtOAc:hexanes to EtOAc) afforded the title compound of Step A (7.08 g). 1H NMR (400 MHz, CDCl3) δ 4.51 (s, 1H), 4.12 (q, 2H), 3.18 (q, 2H), 2.94 (s, 3H), 2.40 (t, 2H), 1.85-1.92 (m, 2H), 1.24 (t, 3H); MS 210 (M+ +1).

reactant | Methanesulfonyl chloride | 35.8 mmol, 4.10 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl 4-aminobutyrate hydrochloride | 35.8 mmol, 6.00 g | Cl.NCCCC(=O)OCC
reactant | Et3N | 77.4 mmol, 10.8 mL | CCN(CC)CC | C6H15N
solvent | THF | 230 mL | C1CCOC1 | C4H8O
product | 4-Methanesulfonylamino-butyric acid ethyl ester | 7.08 g | C(C)OC(CCCNS(=O)(=O)C)=O | C7H15NO4S
